US07691854B2
Ethyl 3-{[3-(trifluoromethyl)phenyl]amino}-2-hexenoate
0.85 g (5.4 mmol) Ethyl 3-oxohexanoate, 1.0 g (6.21 mmol) 3-trifluoromethylaniline and 5 mg (0.08 mmol) acetic acid are dissolved in 15 ml ethanol, and 0.78 g (6.5 mmol) magnesium sulfate are added. The reaction mixture is stirred at reflux overnight. After cooling down to room temperature, the solvent is removed in vacuo and the residue is purified by column chromatography on silica with dichloromethane as eluent.

reactant | Ethyl 3-oxohexanoate | 5.4 mmol, 0.85 g | O=C(CC(=O)OCC)CCC | C8H14O3
reactant | 3-trifluoromethylaniline | 6.21 mmol, 1.0 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | acetic acid | 0.08 mmol, 5 mg | C(C)(=O)O | C2H4O2
reactant | magnesium sulfate | 6.5 mmol, 0.78 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | Ethyl 3-{[3-(trifluoromethyl)phenyl]amino}-2-hexenoate | FC(C=1C=C(C=CC1)NC(=CC(=O)OCC)CCC)(F)F | C15H18F3NO2
